US05459138
EXAMPLE 33: 3-CYCLOPENTYL-4H-PYRIDO[4,3-e] [1,2,4]THIADIAZINE 1,1-DIOXIDE
A solution of 1 g of 4-amino-3-cyclopentylcarbonylaminosulfonylpyridine (Preparation 17) in 1 cm3 of DMF and 10 cm3 of phosphorus oxychloride is stirred at ambient temperature for 3 hours. The solvents are removed under partial vacuum (rotary evaporator) and the residue is dissolved in 10 cm3 of water. The solution is adjusted to a pH of 4 (NaHCO3) and the crystalline precipitate obtained is collected on a filter, washed with water and dried.

reactant | 4-amino-3-cyclopentylcarbonylaminosulfonylpyridine | 1 g | NC1=C(C=NC=C1)S(=O)(=O)NC(=O)C1CCCC1 | C11H15N3O3S
solvent | DMF | 1 cm3 | CN(C)C=O | C3H7NO
solvent | phosphorus oxychloride | 10 cm3 | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-CYCLOPENTYL-4H-PYRIDO[4,3-e] [1,2,4]THIADIAZINE 1,1-DIOXIDE | C1(CCCC1)C1=NS(C2=C(N1)C=CN=C2)(=O)=O | C11H13N3O2S
